US06355680B1
In the manner described in example 3, 2-bromophenylacetic acid is condensed with 2,5-dimethylaniline to yield 2-[(2,5-dimethylphenyl)amino]phenylacetic acid.

reactant | 2-bromophenylacetic acid | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | 2,5-dimethylaniline | CC1=C(N)C=C(C=C1)C | C8H11N
product | 2-[(2,5-dimethylphenyl)amino]phenylacetic acid | CC1=C(C=C(C=C1)C)NC1=C(C=CC=C1)CC(=O)O | C16H17NO2
